US05527819
Step A: 2-Carboethoxy-5-chloro-1-phenylsulfonylindole-3sulfonic acid
Concentrated sulfuric acid (2.50 ml, 90 mmol) was added dropwise over 5 min at 0° C. to a stirred solution of 2-carboethoxy-5-chloro-1-phenylsulfonylindole (7.28 g, 20.0 mmol) in acetic anhydride (10 ml) and dry dichloromethane (50 ml). The resulting tan solution was warmed to RT (room temperature) and after 3 hours was poured onto ice and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with brine, dried (Na2SO4) and evaporated in vacuo to a syrup. Residual acetic anhydride was removed by azeotroping with toluene (3×50 ml), and the residue was crystallized from dichloromethane. The dichloromethane was evaporated in vacuo to give the title compound as a tan powder:

reactant | sulfuric acid | 90 mmol, 2.50 ml | S(O)(O)(=O)=O | H2O4S
reactant | 2-carboethoxy-5-chloro-1-phenylsulfonylindole | 20.0 mmol, 7.28 g | C(=O)(OCC)C=1N(C2=CC=C(C=C2C1)Cl)S(=O)(=O)C1=CC=CC=C1 | C17H14ClNO4S
solvent | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 2-Carboethoxy-5-chloro-1-phenylsulfonylindole-3sulfonic acid | C(=O)(OCC)C=1N(C2=CC=C(C=C2C1S(=O)(=O)O)Cl)S(=O)(=O)C1=CC=CC=C1 | C17H14ClNO7S2
